Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Left-sided weakness
 
Major Surgical or Invasive Procedure:
* IV administration of Solumedrol
* Lumbar puncture x 2
 
History of Present Illness:
PER ADMITTING RESIDENT:
The pt is a ___ year-old right-handed woman with a PMH of
possible CNS vasculitis vs. Susac's syndrome who presents with
left sided weakness and left facial weakness for 3 days.

Patient's neurologic symptoms started in ___ with gait
difficulty and dizziness. She had a brain MRI at that time that
revealed ischemic changes in the cerebellum and basal ganglia. 
An
LP showed pleocytosis (WBC 18 prot 87 neg oligoclonal bands). A
brain biopsy in ___ was diagnostic of small artery/arteriole
vasculitis. She was started on cytoxan at that time. A
hypercoagulable panel showed elevated protein C. In ___ she had
a transient episode of left facial droop and hemiparesis. She 
has
had several episodes of L and R sided numbness and
weakness in the past as well. The last one ocurred in ___
with left arm weakness and left facial droop. She has been on 
and
off cytoxan due to side effects, especially anemia. Patient
reports that she has been off it since ___.
Patient was recently admitted to the neurology service
(___) for work-up of active vasculitis after having been
seen in Dr. ___. Her MRI was read as not showing
evidence of vasculitis; her CSF was normal. She was started on
aggrenox

Patient reports that for the past 3 days she has had more
difficulty to walk, in particular going up the stairs. Her
husband noticed two days ago that she had a left facial droop.
She denied any visual changes or paresthesias. 
This morning, she woke-up at 2am and tried to get out of bed.
Because her left side was weaker, mostly the leg, she kept 
trying
to do so for an hour and then when she could stand-up she fell
down on the floor. Her husband called EMS and she was taken to
___ where her head CT was read as normal and she was
transferred here.

ROS: Patient reports she has been under treatment for UTI; she
usually has repetitive UTI's and urinary incontinence for 
several
years.

 
Past Medical History:
- Cerebral vasculitis vs Susac's syndrome
- urinary incontinence and recurrent UTI's
PAST SURGICAL HISTORY:
- cataract surgery
- hysterectomy
- cholecystectomy
- C section x 3 

 
Social History:
___
Family History:
-mother:  no medical problems
-father:  "heart problems", DM

 
Physical Exam:
ON ADMISSION:
Vitals: P: 78 R: 16 BP: 158/76 SaO2: 98% on RA
General: Awake, cooperative, NAD.  
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx  
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity  

Pulmonary: Lungs CTA bilaterally without R/R/W  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.  
Extremities: No edema
Skin: no rashes   

Neurologic:  
-Mental Status: Alert, oriented x 3. Able to relate history but
does not recall details of her course. Attentive, able to name
___ backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt. was able to name both high and low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. The pt. had good knowledge of current events. There 
was
no evidence of apraxia or neglect.  

CN  
I: not tested  
II,III: VFF to confrontation, pupils 4mm->2mm bilaterally, fundi
normal (small vessels), no red desaturation
III,IV,V: EOMI, no ptosis. No nystagmus  
V: sensation intact V1-V3 to LT  
VII: L facial weakness in UMN pattern
VIII: hears finger rub bilaterally but has decreased ability on
the R
IX,X: palate elevates symmetrically, uvula midline  
XI: SCM/trapezeii ___ bilaterally  
XII: tongue protrudes midline, no dysarthria  

Motor: Normal bulk, increased tone in ___ L>>R; no asterixis or
myoclonus. Left pronator drift.  
   Delt Bi  Tri  WE FE Grip IO  
   C5   C6  C7   C6 C7 C8/T1 T1  
L  4    5   4    ___     5  
R  5    5   5    ___     5  
  
  IP Quad ___ PF  
  L2 L3   L4-S1 L4 L5  S1/S2  
L  3  3     3    3 3    3    
R  5  5     5    5 5    5  

Reflex: No clonus, no crossed adductors
+ jaw jerk, mild L grasp, borderline glabellar

  Bi Tri Bra Pat  
  C5 C7  C6  L4   
L 3---2---3-- 1---    
R ___   1 
Upgoing toe on L    

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
Nl graphesisia and cortical mapping  

-Coordination: No intention tremor, dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally.  

-Gait: not tested due to weakness

 
Pertinent Results:
WBC-4.3 RBC-2.63* HGB-9.3* HCT-26.4* MCV-100* PLT-192
GLUCOSE-106* UREA N-14 CREAT-0.8 SODIUM-142 POTASSIUM-3.5 
CHLORIDE-114* TOTAL CO2-17* ANION GAP-15
ALT(SGPT)-16 AST(SGOT)-18 ALK PHOS-87 TOT BILI-0.3
 CK-MB-5 cTropnT-<0.01  CK(CPK)-182*
URINE  BLOOD-LG NITRITE-NEG PROTEIN-500 GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-MOD
.
Lumbar Puncture (___):
tube # 1: wbc 11, rbc 57, poly 42, lymph 53, mono 5
tube # 4: wbc 53, rbc 83, poly 62, lymph 28, mono 10
protein 193, glucose 12
Gram Stain: 1+ PMN, Cx= Neg
.
Lumbar Puncture (___):
tube # 4: wbc 4, rbc 1, poly 7, lymph 76, mono 17
protein 271, glucose 56
Gram Stain: No PMNs, Cx = Neg,  Fungal Cx = Neg (prelim)
.
Modifiable Stroke Risk Factors:
Chol 132, ___ 40, HDL 49, LDL 75 
%HbA1c-5.5
.
Infectious Disease Investigatory Studies:
ESR 71, CRP 36.4
Hepatitis B IgM Bc = Neg
Hepatitis C Ab = Neg
Enterovirus = Neg
HSV 1, 2 = Neg
EBV = Neg
CMV= Neg
Cryptococcus AG (Serum, CSF) = Neg
ACE = Neg
SPEP = Neg
RPR = Non-reactive
.
PENDING AT DISCHARGE:
* Serum:
TPMT erythrocytes
TPMT genotype
Leptospira
EEE
* CSF:
CMV, VZV, HHV-6, Lyme, TB, VDRL, EEE, WNV
.
IMAGING
.
CTA Head and Neck (___):
1. No evidence of hemorrhage or recent infarction detected.
2. Old infarcts involving the right caudate nucleus and right 
external
capsule.
3.No stenosis or occlusion of the carotid,vertebral arteries and 
their major
branches. A small 1.5 mm outpouching of the left A1 segment of 
the left
Anterior cerebral artery is most likely an infundibulum as 
discussed above,
but could represent a tiny aneurysm.
.
MRI Head (___):
IMPRESSION:
1. Multiple new extensive areas of leptomeningeal FLAIR 
hyperintensity and
enhancement involving all lobes as well as the cerebellum. There 
is suggestion
of areas of decreased diffusion, and possibly cortical 
involvement as well.
The findings are compatible with the given diagnosis of CNS 
vasculitis
exacerbation.
2. Stable post-surgical changes relate to a right frontal 
biopsy.
3. Enlargement of the ventricles since ___, although there has 
been
stability since ___. Given the disproportionate dialtion of the 
lateral
ventricles wrf to cerebral sulci and T2 aqueductal flow void 
sign,
superimposed NPH with central volume loss can be in the DDx and 
can be
corrleated clinically.
4. Old infarcts involving the right basal ganglia and right 
pons.
.
EEG (___):
IMPRESSION: This is an abnormal routine EEG due to the slow 
background.
These findings suggest a widespread mild to moderate 
encephalopathy
affecting both cortical and subcortical structures. Medications, 
toxic/
metabolic disturbances, and infection are among the most common 
causes.
There were no areas of prominent focal slowing although 
encephalopathies
can obscure focal findings. There were no epileptiform features.
.
MRI Cervical Spine (___):
IMPRESSION: Degenerative changes in the cervical region without 
high-grade
spinal stenosis or foraminal narrowing. No extrinsic spinal cord 
compression
or intrinsic spinal cord signal abnormalities. No abnormal 
enhancement.
 .
MRI Thoracic Spine (___):
MPRESSION: Mild multilevel degenerative changes. Subtle signal 
within the
lower thoracic spinal cord could be intrinsic abnormality or due 
to artifacts.
Given the patient's clinical history of lower extremity 
weakness, repeat study
of the thoracic spine with sagittal inversion recovery and 
diffusion images
and axial T2-weighted images through the distal spinal cord are 
recommended.
No abnormal enhancement or extrinsic spinal cord compression 
seen.
.
Transthoracic Echocardiogram (___):
The left atrium is normal in size. No atrial septal defect or 
patent foramen ovale is seen by 2D, color Doppler or saline 
contrast. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Trivial 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. 

IMPRESSION: No intracardiac source of embolism identified. 
Preserved biventricular systolic function. 
 
 
 
 
 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old right-handed woman with a history 
including CNS vasculitis who presented to the ___ with a three 
day history of left hemiparesis.  She was 
admitted to the stroke service from ___ to ___.
.
# NEURO:
At the time of admission, a CT of the head was performed.  
Although the study demonstrated remote infarcts involving the 
right caudate nucleus and external
capsule, there was no evidence of hemorrhage.  Imaging of the 
major vessels revealed no stenosis or occlusion of the carotid 
and vertebral arteries or their major branches. As the patient's 
symptoms were concerning for stroke, an MRI was performed.  The 
imaging revealed multiple new extensive areas of leptomeningeal 
FLAIR hyperintensity and enhancement involving all lobes as well 
as the cerebellum. There were also areas of decreased diffusion, 
and possibly cortical involvement, thought to be consistent CNS 
vasculitis and resultant infarctions.  Aggrenox was continued.
. 
A transthoracic echocardiogram was performed to evaluate for 
cardiac contributions to the patient's symptom complex.  There 
was no ASD, PFO, vegetation, or thrombus noted.   The estimated  
systolic function was normal (LVEF >55%). 
.
To evaluate modifiable risk factors for stroke, lipids and 
glycosylated hemoglobin were measured.  The LDL was found to be 
75, so no medication changes were made.  The HBA1C was 5.5%. 
.
Of note, on imaging the ventricles appeared stable in size 
relative to ___. As there was no new ventriculomegaly and the 
patient had developed a metabolic acidosis, the acetazolamide 
was discontinued in the course of the hospitalization.  The 
patient declined treatment with baclofen, so the medication was 
also discontinued.
.
As there was some concern the patient was exhibiting signs of 
seizure, an EEG was performed.  While the telemetry was 
suggestive of encephalopathy, there was no epileptiform 
activity.
.
Early in the course of the hospitalization, the patient's lower 
extremity strength was thought to significantly decrease.  To 
evaluate for contributory lesions, MRIs of the cervical and 
lumbar spine were performed.  No extrinsic spinal cord 
compression or intrinsic spinal cord signal abnormalities were 
identified.
.
Elevations in ESR and CRP were noted.  Similarly, results of an 
initial lumbar puncture (LP) showed changes thought to reflect 
an acute inflammatory reaction.  Primarily due to concern that 
the low CSF glucose could suggest infection, the lumbar puncture 
was repeated.  The second LP revealed a lymphocytic pleocytosis 
indicative of ongoing inflammation.  In this setting the 
infectious disease and rheumatology teams agreed it would be 
safe to administer high-dose steroids.
.
# RHEUM:
The rheumatology team was consulted to help guide the 
administration of immunosuppressive therapy.  At their 
suggestion, a three-day pulse of IV solumedrol was administered. 
 Subsequently prednisone (1mg/kg) was started, along with 
bactrim for PCP ___.  Treatment with Imuran was not 
started as enzyme studies for TPMT were still pending.  The use 
of the agent will be re-evaluated when Ms. ___ attends a 
___ rheumatology appointment in approximately three weeks.
.
# ID:
At the time of admission, the patient was thought to have 
evidence of a urinary tract infection.  In the setting of 
recurrent urinary tract infections, a 7-day course of 
ciprofloxacin was started.  The antibiotic was discontinued when 
the urine culture was found to be negative.
.
At the recommendation of the Infectious Disease team, a panel of 
serum and cerebrospinal fluid assays were performed.  The goal 
was to rule out especially serious covert infections, such as 
fungal processes, prior to starting IV solumedrol and or 
immunosuppressive therapy.  Studies for Hepatitis B IgM, 
Hepatitis C Ab, Enterovirus, HSV 1 and 2, EBV, CMV, Cryptococcus 
Ag, ACE, SPEP, and RPR were found to be negative or 
non-reactive.  At the time of discharge several serum (TPMT 
erythrocytes, TPMT genotype, Leptospira, EEE) and CSF (CMV, VZV, 
HHV-6, Lyme, TB, VDRL, EEE, WNV) results were pending.
.
Following a ___ evaluation, the patient was discharged to 
rehabilitation.
.
CODE: Full

 
Medications on Admission:
- Aggrenox ___ mg BID
- baclofen 10 mg PO TID
- oxybutynin 10 mg PO Qday
- Fish Oil
- acetazolamide 500mg BID
- Nitrofurantoin 50mg PO QDay

 
Discharge Medications:
1. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain, temperature > 100.3 F.  
3. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
4. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
7. Prednisone 20 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
8. Protonix 40 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
9. Detrol LA 4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
CNS Vasculitis

 
Discharge Condition:
Stable.  The neurological examination is notable for slight 
dysarthria, minimal left facial droop, nystagmus with lateral 
gaze, left pronator drift, and mild left triceps, iliopsoas, 
hamstring, and anterior tibialis weakness. 

 
Discharge Instructions:
You presented to the ___ with a three day history of 
left-sided weakness.  Imaging of the brain demonstrated changes 
consistent with the central nervous system vasculitis.  

* Please take all medications as prescribed.

* Please attend all ___ appointments as scheduled.

* Please seek medical attention if you develop change in mental 
status, confusion, visual changes, increasing weakness - 
especially on one side of your body, shaking of the limbs, 
bladder dysfunction, chest discomfort, shortness of breath, or 
any other symptom you find concerning.
 
Followup Instructions:
___